US09062092B2
Compound 57e. 6-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-[1,4]dioxepane-6-carboxylic acid
A mixture of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (68 mg, 0.128 mmol), 6-vinyl-[1,4]dioxepane-6-carboxylic acid (22 mg, 0.128 mmol), triethylamine (39 mg, 54 μL, 0.384 mmol) and tri(o-tolyl)phosphine (8 mg, 0.026 mmol) in 1,4-dioxane (2 mL) was deoxygenated by bubbling nitrogen through for 5 minutes and then warmed to 50° C. under nitrogen with stirring. Tris(dibenzylideneacetone)dipalladium(0) (12 mg, 0.013 mmol) was added and the mixture was refluxed for 40 minutes and then allowed to cool. The suspension was filtered and the filtrate was evaporated to give crude title compound which was used directly in the next stage. LCMS (m/z) 626.2 [M+H], Tr=1.67 min.

reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.128 mmol, 68 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O | C24H32BrN5O4
reactant | 6-vinyl-[1,4]dioxepane-6-carboxylic acid | 0.128 mmol, 22 mg | C(=C)C1(COCCOC1)C(=O)O | C8H12O4
reactant | triethylamine | 0.384 mmol, 54 μL, 39 mg | C(C)N(CC)CC | C6H15N
reactant | tri(o-tolyl)phosphine | 0.026 mmol, 8 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.013 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-[1,4]dioxepane-6-carboxylic acid | O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(COCCOC1)C(=O)O)C)C(C)C | C32H43N5O8
